US04051256
8-Aminotetracyclo[4,3,0,02,4,03,7 ]nonane hydrochloride (0.5 g.) (prepared as described in U.K. Patent Specification No. 1,180,749) was dissolved in a mixture of chloroform (25 ml.) and triethylamine (0.33 g.). To this solution was added p-chlorophenylisothiocyanate (0.5 g.) and the mixture refluxed for 16 hours. The chloroform solution, after cooling, was washed successively with 10 ml. portions of 2N HCl, water and saturated brine, and then dried over anhydrous MgSO4. After filtration, the solvent was evaporated in vacuo and the residue crystallised from toluene/cyclohexane (1:2 v/v) to give 8-[3-(p-chlorophenyl)thioureido]tetracyclo[4,3,0,02,4,03,7 ]-nonane, m.p. 168°-170°.

reactant | 8-Aminotetracyclo[4,3,0,02,4,03,7 ]nonane hydrochloride | 0.5 g | Cl.NC1C2C3CC4C2C4C3C1
reactant | p-chlorophenylisothiocyanate | 0.5 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.33 g | C(C)N(CC)CC | C6H15N
product | 8-[3-(p-chlorophenyl)thioureido]tetracyclo[4,3,0,02,4,03,7 ]-nonane | ClC1=CC=C(C=C1)NC(NC1C2C3CC4C2C4C3C1)=S | C16H17ClN2S
